US08193199B2
Prepared according to Procedure H using (2-(2-(benzyloxy)-5-fluorophenyl)-8-chloroquinolin-3-yl)methanamine (0.021 g, 0.053 mmol), 6-chloropurine (0.012 g, 0.06 mmol, 1.5 eq) and DIEA (0.1 mmol, 2.0 eq) in n-butanol (3 mL). N-((2-(2-(benzyloxy)-5-fluorophenyl)-8-chloroquinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=31 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.38 (s, 1H), 8.12 (s, 1H), 8.07 (s, 1H), 7.90 (s, 1H), 7.88 (s, 1H), 7.52-7.59 (t, 1H), 7.21-7.25 (m, 2H), 7.19 (m, 4H), 7.06-7.12 (m, 2H), 5.05-5.10 (m, 2H), 4.90-4.96 (s, 2H), Mass Spectrum (ESI) m/e=511 (M+1).

reactant | (2-(2-(benzyloxy)-5-fluorophenyl)-8-chloroquinolin-3-yl)methanamine | 0.053 mmol, 0.021 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)F)C1=NC2=C(C=CC=C2C=C1CN)Cl | C23H18ClFN2O
reactant | 6-chloropurine | 0.06 mmol, 0.012 g, 1.5 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.1 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((2-(2-(benzyloxy)-5-fluorophenyl)-8-chloroquinolin-3-yl)methyl)-9H-purin-6-amine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)F)C1=NC2=C(C=CC=C2C=C1CNC1=C2N=CNC2=NC=N1)Cl | C28H20ClFN6O
